US04092474
To a solution of 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-3-cephem-4-carboxylic acid (stereoisomer A: 88 mg) in mixture (5 ml) of methanol and methylene chloride (1:1) is added a solution of diphenyldiazomethane in ether until the red color of the solution does no more disappear at 55° C on standing. After 3 hours, the reaction mixture is concentrated to give the residue which is stirred in a mixture of ether and petroleum ether. The supernatant is removed, and resulting precipitate is recrystallized from petroleum ether to give diphenylmethyl 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-3-cephem-4-carboxylate (stereoisomer A: 85 mg). m.p. 161-163° C. Yield: 70%.

reactant | 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)OC(C)=O)C(=O)O)C1=O | C17H18N2O6S2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | methanol | 5 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | diphenylmethyl 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-3-cephem-4-carboxylate | Yield: 70% | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)OC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O6S2
